US07432266B2
5-[1-(4-Fluorophenyl)-1H-pyrazol-5-yl]-2-methoxyphenol (50.0 mg, 0.176 mmol), 5 mL of N,N-dimethylformamide and methyl iodide (16.4 uL, 0.264 mmol) were combined in a vial and stirred at room temperature overnight. An additional 0.5 mL of methyl iodide was added and stirring continued for 2 days at room temperature and then 10 mL of ethyl acetate and 10 mL of water were added. The organic layer was separated, dried over sodium sulfate, filtered and concentrated under reduced pressure. The residue was purified by column chromatography on silica gel eluting with a gradient of 10% ethyl acetate in hexanes to 50% ethyl acetate in hexanes over 20 minutes to give 5-(3,4-dimethoxyphenyl)-1-(4-fluorophenyl)-1H-pyrazole (25 mg, 48%) as a white solid. LC/MS (EI) tR 4.14, m/z 299.1 (M++1). 1H NMR (CDCl3 300 MHz) δ 3.7 (s, 3H); 3.9 (s, 3H); 6.5 (s, 1H); 6.7 (s, 1H); 7.0 (s, 2H); 7.1 (m, 2H); 7.3 (m, 2H); 7.7 (s, 1H).

reactant | 5-[1-(4-Fluorophenyl)-1H-pyrazol-5-yl]-2-methoxyphenol | 0.176 mmol, 50.0 mg | FC1=CC=C(C=C1)N1N=CC=C1C=1C=CC(=C(C1)O)OC | C16H13FN2O2
reactant | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
reactant | methyl iodide | 0.264 mmol, 16.4 uL | CI | CH3I
reactant | methyl iodide | 0.5 mL | CI | CH3I
reactant | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 10 mL | O | H2O
product | 5-(3,4-dimethoxyphenyl)-1-(4-fluorophenyl)-1H-pyrazole | 25 mg, 48% | COC=1C=C(C=CC1OC)C1=CC=NN1C1=CC=C(C=C1)F | C17H15FN2O2
